US04859229
A solution of 2.0 g of 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6 -trifluoromethyl-2,4(1H,3H)pyrimidinedione is treated with 0.25 g of potassium carbonate and the suspension is saturated with chlorotrifluoroethylene while stirring during 10 minutes. The reaction mixture is subsequently heated to 50° C. for 10 minutes, during which a slow stream of chlorotrifluoroethylene is conducted in. Thereafter, the reaction mixture is poured into a solution of 3 ml of 2N hydrochloric acid in 250 ml of water, and the whole is extracted with 100 ml of ethyl acetate. The organic phase is washed neutral with water, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The resinous residue is purified by chromatography on a silica gel column using diethyl ether/n-hexane (1:3) as the eluent. There is obtained 3-[4-chloro-5-(2-chloro-1,1,2-trifluoroethoxy)-2-fluorophenyl]-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione, 1H-NMR (CDCl3, 400 MHz : 7.40 ppm (d,1H), 7.32 ppm (m,1H), 6.37 ppm (s,1H), 6.33 ppm (m,1H), 3.57 ppm (d,3H).

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6 -trifluoromethyl-2,4(1H,3H)pyrimidinedione | 2.0 g | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorotrifluoroethylene | ClC(=C(F)F)F | C2ClF3
reactant | hydrochloric acid | 2N, 3 ml | Cl | ClH
solvent | water | 250 ml | O | H2O
product | 3-[4-chloro-5-(2-chloro-1,1,2-trifluoroethoxy)-2-fluorophenyl]-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C(F)Cl)(F)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C14H7Cl2F7N2O3
